US06358971B1
2-Amino-3-phenyl-6-(carboxy)imidazo[1,2-a]pyridine
The 2-amino-3-phenyl-6-(carbomethoxy)imidazo-[1,2-a]-pyridine (83.9 g, 0.314 mol), lithium hyroxide monohydrate (65.9 g, 1.57 mol), 1113 ml of THF, and 371 ml of H2O were combined and stirred for 18 hours at RT. The reaction was concentrated in vacuo and the residue taken up in 5 L of H2O. The pH was adjusted to 5 with 5N HCl. The resulting precipitate was filtered and air dried for 72 hours to give 80.5 g of product. (quant. yeild). NMR, MS(FD).

reactant | 2-amino-3-phenyl-6-(carbomethoxy)imidazo-[1,2-a]-pyridine | 0.314 mol, 83.9 g | NC=1N=C2N(C=C(C=C2)C(=O)OC)C1C1=CC=CC=C1 | C15H13N3O2
reactant | lithium hyroxide monohydrate | 1.57 mol, 65.9 g | O.[OH-].[Li+]
reactant | THF | 1113 ml | C1CCOC1 | C4H8O
solvent | H2O | 371 ml | O | H2O
product | 2-Amino-3-phenyl-6-(carboxy)imidazo[1,2-a]pyridine | 80.5 g | NC=1N=C2N(C=C(C=C2)C(=O)O)C1C1=CC=CC=C1 | C14H11N3O2
